US06448397B1
To a mixture of 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one (0.5681 g, 1.87 mmol) in ethyl acetate (10 mL) and acetonitrile (10 mL) is added trifluoroacetic acid (2 mL). Anhydrous cupric chloride (1.26 g, 9.36 mmol) is added and the mixture is heated to reflux at 95° C. for 2 h. After 5 h, additional anhydrous cupric chloride (0.63 g, 4.68 mmol) is added and the mixture is refluxed an additional hour. The mixture is then poured into CH2Cl2 (150 mL) and filtered. The filtrates are washed with aqueous potassium carbonate. The layers are separated and the organic layer is washed twice with water (200 mL), dried over magnesium sulfate and concentrated. Column chromatography (70 g silica gel) using ethyl acetate/CH2Cl2/hexane (5:45:50) gave 0.428 g (61%) of 8,8-dichloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one.

reactant | 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 1.87 mmol, 0.5681 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(CCCC4N1C23)=O | C20H17NO2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 8,8-dichloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 0.428 g, 61% | ClC1(CCC=2N3C4=C(C=CC=C4C2C1=O)OCC3C3=CC=CC=C3)Cl | C20H15Cl2NO2
